US07875618B2
4-Chloro-2-(2-cyclohexyl-4-methyl-imidazol-1-yl)-nitrobenzene
3.75 g 4-Chloro-2-fluoro-nitrobenzene, 3.4 g 2-Cyclohexyl-4-methyl-imidazole, 50 ml acetonitrile and 5 ml triethylamine were heated 6 hours at 60° C. The solvent was distilled off followed by extraction with 100 ml ethylacetate and 2 times 50 ml water. The organic layer was distilled off and the residue chromatographed on silica gel with 5% MeOH/CH2Cl2.

reactant | 4-Chloro-2-fluoro-nitrobenzene | 3.75 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3ClFNO2
reactant | 2-Cyclohexyl-4-methyl-imidazole | 3.4 g | C1(CCCCC1)C=1NC=C(N1)C | C10H16N2
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | 4-Chloro-2-(2-cyclohexyl-4-methyl-imidazol-1-yl)-nitrobenzene | ClC1=CC(=C(C=C1)[N+](=O)[O-])N1C(=NC(=C1)C)C1CCCCC1 | C16H18ClN3O2
